### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry) define rational maps

### PR DESCRIPTION
**Pull request by erdOne**
and show that they are equivalent to `Spec X.functionField ⟶ Y`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 1]
```diff
@@ -0,0 +1,308 @@
...
+/-- A partial map restricts to a map from `Spec K(X)`. -/
+noncomputable
+abbrev fromFunctionField [IrreducibleSpace X] (f : X.PartialMap Y) :
+    Spec X.functionField ⟶ Y :=
+  f.fromSpecStalkOfMem
+    ((genericPoint_specializes _).mem_open f.domain.2 f.dense_domain.nonempty.choose_spec)
+
+lemma fromSpecStalkOfMem_restrict (f : X.PartialMap Y)
+    (U : X.Opens) (hU : Dense (U : Set X)) (hU' : U ≤ f.domain) {x} (hx : x ∈ U) :
+    (f.restrict U hU hU').fromSpecStalkOfMem hx = f.fromSpecStalkOfMem (hU' hx) := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:108]:
```suggestion
lemma fromSpecStalkOfMem_restrict (f : X.PartialMap Y)
    {U : X.Opens} (hU : Dense (U : Set X)) (hU' : U ≤ f.domain) {x} (hx : x ∈ U) :
    (f.restrict U hU hU').fromSpecStalkOfMem hx = f.fromSpecStalkOfMem (hU' hx) := by
```

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 2]
```diff
@@ -0,0 +1,308 @@
...
+  rw [← stalkSpecializes_stalkMap_assoc, stalkMap_comp]
+
+lemma fromFunctionField_restrict (f : X.PartialMap Y) [IrreducibleSpace X]
+    (U : X.Opens) (hU : Dense (U : Set X)) (hU' : U ≤ f.domain) :
+    (f.restrict U hU hU').fromFunctionField = f.fromFunctionField :=
+  fromSpecStalkOfMem_restrict f _ _ _ _
+
+/--
+Given `S`-schemes `X` and `Y` such that `Y` is locally of finite type and
+`X` is irreducible and "germ-injective" (e.g. when `X` is integral),
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:130]:
```suggestion
`X` is irreducible and germ-injective at `x` (e.g. when `X` is integral),
```

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 3]
```diff
@@ -0,0 +1,308 @@
...
+any `S`-morphism `Spec 𝒪ₓ ⟶ Y` spreads out to a partial map from `X` to `Y`.
+-/
+noncomputable
+def ofFromSpecStalk [IrreducibleSpace X] [LocallyOfFiniteType sY] {x : X} [X.IsGermInjectiveAt x]
+    (φ : Spec (X.presheaf.stalk x) ⟶ Y) (h : φ ≫ sY = X.fromSpecStalk x ≫ sX) : X.PartialMap Y where
+  hom := (spread_out_of_isGermInjective' sX sY φ h).choose_spec.choose_spec.choose
+  dense_domain := (spread_out_of_isGermInjective' sX sY φ h).choose.2.dense
+    ⟨_, (spread_out_of_isGermInjective' sX sY φ h).choose_spec.choose⟩
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:138]: Instead of the `choose_spec.choose_spec.choose` stuff, could you add some API around `spread_out_of_isGermInjective` (i.e. add a new def using `choose` and the necessary lemmas extracted from `choose_spec`)?

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 4]
```diff
@@ -0,0 +1,308 @@
...
+    f.toPartialMap.fromSpecStalkOfMem (x := x) trivial = X.fromSpecStalk x ≫ f := by
+  simp [fromSpecStalkOfMem]
+
+/-- Two partial maps are equivalent if they are equal on a dense open subscheme. -/
+protected noncomputable
+def equiv (f g : X.PartialMap Y) : Prop :=
+  ∃ (W : X.Opens) (hW : Dense (W : Set X)) (hWl : W ≤ f.domain) (hWr : W ≤ g.domain),
+    (f.restrict W hW hWl).hom = (g.restrict W hW hWr).hom
+
+lemma iseqv_rel : _root_.Equivalence (@Scheme.PartialMap.equiv X Y) where
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:173]:
```suggestion
lemma iseqv_rel : Equivalence (@Scheme.PartialMap.equiv X Y) where
```

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 5]
```diff
@@ -0,0 +1,308 @@
...
+      ← g.fromSpecStalkOfMem_restrict _ hdense inf_le_right ⟨hxf, hxg⟩] at H
+    simpa only [fromSpecStalkOfMem, restrict_domain, Opens.fromSpecStalkOfMem, Spec.map_inv,
+      restrict_hom, Category.assoc, IsIso.eq_inv_comp, IsIso.hom_inv_id_assoc] using H
+
+end PartialMap
+
+/-- A rational map from `X` to `Y` (`X ⤏ Y`) is an equivalence class of partial maps,
+where two partial maps are equivalent if they are equal on a dense open subscheme.  -/
+def RationalMap (X Y : Scheme.{u}) : Type u :=
+  @_root_.Quotient (X.PartialMap Y) inferInstance
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:219]:
```suggestion
  @Quotient (X.PartialMap Y) inferInstance
```
similarly below.

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 6]
```diff
@@ -0,0 +1,308 @@
...
+
+/-- The notation for rational maps. -/
+scoped[AlgebraicGeometry] infix:10 " ⤏ " => Scheme.RationalMap
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:222]: Is this already typeable in VS code? (It is not in neovim)

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 7]
```diff
@@ -0,0 +1,308 @@
...
+  _root_.Quotient.exists_rep
+
+lemma RationalMap.exists_rep (f : X ⤏ Y) : ∃ g : X.PartialMap Y, g.toRationalMap = f :=
+  _root_.Quotient.exists_rep f
+
+lemma PartialMap.toRationalMap_eq_iff {f g : X.PartialMap Y} :
+    f.toRationalMap = g.toRationalMap ↔ f.equiv g :=
+  Quotient.eq
+
+/-- A rational map restricts to a map from `Spec K(X)`. -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:240]: This docstring seems to be wrong.

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 8]
```diff
@@ -0,0 +1,308 @@
...
+  refine ⟨W, hW, hWl, hWr, ?_⟩
+  simp only [PartialMap.restrict_domain, PartialMap.restrict_hom, PartialMap.compHom_domain,
+    PartialMap.compHom_hom] at e ⊢
+  rw [reassoc_of% e]
+
+@[simp]
+lemma RationalMap.compHom_toRationalMap (f : X.PartialMap Y) (g : Y ⟶ Z) :
+    f.toRationalMap.compHom g = (f.compHom g).toRationalMap := rfl
+
+/-- The composition of a rational map and a morphism on the right. -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:253]: Ah it's just switched with this one.

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 9]
```diff
@@ -0,0 +1,308 @@
...
+lemma RationalMap.eq_of_fromFunctionField_eq [IsIntegral X] (f g : X.RationalMap Y)
+    (H : f.fromFunctionField = g.fromFunctionField) : f = g := by
+    obtain ⟨f, rfl⟩ := f.exists_rep
+    obtain ⟨g, rfl⟩ := g.exists_rep
+    refine PartialMap.toRationalMap_eq_iff.mpr ?_
+    exact PartialMap.equiv_of_fromSpecStalkOfMem_eq _ _ _ _ H
+
+/--
+Given `S`-schemes `X` and `Y` such that `Y` is locally of finite type and `X` is integral,
+`S`-morphism `Spec K(X) ⟶ Y` corresponds bijectively to `S`-rational map from `X` to `Y`.
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:289]: Same as in the module docstring.

File: Mathlib/AlgebraicGeometry/RationalMap.lean (hunk 8 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/RationalMap.lean:253]: Oops not sure how that happened.

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 10]
```diff
@@ -0,0 +1,308 @@
...
+@[ext]
+lemma ext (f g : X.PartialMap Y) (e : f.domain = g.domain)
+    (H : f.hom = (X.isoOfEq e).hom ≫ g.hom) : f = g := by
+  rw [ext_iff]
+  exact ⟨e, H⟩
+
+/-- The restriction of a partial map to a smaller domain. -/
+@[simps domain hom]
+noncomputable
+def restrict (f : X.PartialMap Y) (U : X.Opens)
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/RationalMap.lean:69]: Fair point. changed to `lemmasOnly`.

File: Mathlib/AlgebraicGeometry/RationalMap.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/RationalMap.lean:138]: This def is intended to be the "new def using choose".

File: Mathlib/AlgebraicGeometry/RationalMap.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/RationalMap.lean:222]: No. I will add a PR later.

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 11]
```diff
@@ -0,0 +1,308 @@
...
+    (f.restrict U hU hU').fromFunctionField = f.fromFunctionField :=
+  fromSpecStalkOfMem_restrict f _ _ _
+
+/--
+Given `S`-schemes `X` and `Y` such that `Y` is locally of finite type and
+`X` is irreducible germ-injective at `x` (e.g. when `X` is integral),
+any `S`-morphism `Spec 𝒪ₓ ⟶ Y` spreads out to a partial map from `X` to `Y`.
+-/
+noncomputable
+def ofFromSpecStalk [IrreducibleSpace X] [LocallyOfFiniteType sY] {x : X} [X.IsGermInjectiveAt x]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:134]:
```suggestion
noncomputable
def ofFromSpecStalk [PreirreducibleSpace X] [LocallyOfFiniteType sY] {x : X} [X.IsGermInjectiveAt x]
```
and below.

File: Mathlib/AlgebraicGeometry/RationalMap.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/RationalMap.lean:138]: Okay, if we need it where `X` is not irreducible, we can still generalize.

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 12]
```diff
@@ -0,0 +1,308 @@
...
+    (H : f.hom = (X.isoOfEq e).hom ≫ g.hom) : f = g := by
+  rw [ext_iff]
+  exact ⟨e, H⟩
+
+/-- The restriction of a partial map to a smaller domain. -/
+@[simps hom, simps (config := .lemmasOnly) domain]
+noncomputable
+def restrict (f : X.PartialMap Y) (U : X.Opens)
+    (hU : Dense (U : Set X)) (hU' : U ≤ f.domain) : X.PartialMap Y where
+  domain := U
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:71]: Maybe a lemma `restrict_restrict` would be useful?

File: Mathlib/AlgebraicGeometry/SpreadingOut.lean [hunk 13]
```diff
@@ -334,4 +348,26 @@ lemma spread_out_of_isGermInjective [LocallyOfFiniteType sY] {x : X} [X.IsGermIn
       ← Scheme.Hom.appLE, ← hW.isoSpec_hom, IsAffineOpen.Spec_map_appLE_fromSpec sX hU hW i,
       ← Iso.eq_inv_comp, IsAffineOpen.isoSpec_inv_ι_assoc]
 
+/--
+Given `S`-schemes `X Y` and points `x : X`, and a `S`-morphism `φ : Spec 𝒪_{X, x} ⟶ Y`,
+we may spread it out to a morphism `S`-morphism `f : U ⟶ Y`
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/SpreadingOut.lean:353]:
```suggestion
Given `S`-schemes `X Y`, a point `x : X`, and a `S`-morphism `φ : Spec 𝒪_{X, x} ⟶ Y`,
we may spread it out to an `S`-morphism `f : U ⟶ Y`
```

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 14]
```diff
@@ -0,0 +1,308 @@
...
+    exact PartialMap.equiv_of_fromSpecStalkOfMem_eq _ _ _ _ H
+
+/--
+Given `S`-schemes `X` and `Y` such that `Y` is locally of finite type and `X` is integral,
+`S`-morphisms `Spec K(X) ⟶ Y` correspond bijectively to `S`-rational maps from `X` to `Y`.
+-/
+noncomputable
+def RationalMap.equivFunctionField [IsIntegral X] [LocallyOfFiniteType sY] :
+    { f : Spec X.functionField ⟶ Y // f ≫ sY = X.fromSpecStalk _ ≫ sX} ≃
+      { f : X ⤏ Y // f.compHom sY = sX.toRationalMap } where
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:294]: Lets not stall this PR, but I think that our current approach to treating `S`-schemes via carrying around the additional compatibility condition everywhere won't scale.

- Maybe we should migrate to an approach to AG where `X : Scheme` is replaced by `X : C` with `[HasForget₂ C Scheme]` with a coercion from `C` to `Scheme` (and for morphisms of `C`) whenever `HasForget₂ C Scheme`. This would give us more flexibility in working with `Over S`, because everything done for schemes still applies. The additional coercions everywhere might make this horrible though.

- Or we introduce `IsOver S` and `Hom.IsOver S`. Then objects are still schemes so no coercions, but we can comfortably have compositions be automatically `Hom.IsOver S` etc. This is also close to the rest of mathlibs design, where we replaced `Type` by `Scheme`.

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/RationalMap.lean:294]: Yes this is on my radar as well. I'm thinking about the latter.

File: Mathlib/AlgebraicGeometry/RationalMap.lean (hunk 11 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/RationalMap.lean:134]: I don't think this matters because we assumed `X` is non-empty anyways (`by the `x : X`).

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/RationalMap.lean:149]: Oh yes, I did not pay attention.

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 15]
```diff
@@ -187,6 +202,11 @@ lemma iseqv_rel : Equivalence (@Scheme.PartialMap.equiv X Y) where
 
 instance : Setoid (X.PartialMap Y) := ⟨@PartialMap.equiv X Y, iseqv_rel⟩
 
+lemma restrict_equiv (f : X.PartialMap Y) (U : X.Opens)
+    (hU : Dense (U : Set X)) (hU' : U ≤ f.domain) : (f.restrict U hU hU').equiv f :=
+  ⟨U, hU, le_rfl, hU', by simp⟩
+
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:208]:
```suggestion
```

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 16]
```diff
@@ -0,0 +1,334 @@
...
+    f.toPartialMap.fromSpecStalkOfMem (x := x) trivial = X.fromSpecStalk x ≫ f := by
+  simp [fromSpecStalkOfMem]
+
+/-- Two partial maps are equivalent if they are equal on a dense open subscheme. -/
+protected noncomputable
+def equiv (f g : X.PartialMap Y) : Prop :=
+  ∃ (W : X.Opens) (hW : Dense (W : Set X)) (hWl : W ≤ f.domain) (hWr : W ≤ g.domain),
+    (f.restrict W hW hWl).hom = (g.restrict W hW hWr).hom
+
+lemma iseqv_rel : Equivalence (@Scheme.PartialMap.equiv X Y) where
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:188]: This is a strange name, maybe just `equivalence`?

**Review by chrisflav — APPROVED** [review]
Thanks, LGTM modulo two minor comments.

**Comment by chrisflav** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
